US05439874
1 g (3.4 mmol) of 2-(4,6-dimethoxy-pyrimidin-2-yl-oxy)-5-methyl-bicyclo[3.1.0]hexane-1-carboxylic acid is dissolved in 50 ml of dichloromethane and mixed with 2.1 g of triethylamine. 0.53 g (3.4 mmol) of phosphorus oxychloride, dissolved in 5 ml of dichloromethane, is added dropwise at -5° C. and the mixture is subsequently stirred for 5 minutes. A solution of 0.9 g (7.1 mmol) of methyl aminoacetate (glycine methyl ester) in 5 ml of dichloromethane is then added, with continued stirring, to the solution of the acid chloride. The reaction mixture is then allowed to reach room temperature within the space of 15 minutes. Subsequently, the organic phase is separated off, washed three times with water, dried over magnesium sulphate and evaporated. The remaining residue is purified by means of (flash) chromatography. 2-(4,6-Dimethoxy-pyrimidin-2-yl-oxy)-5-methyl-bicyclo-[3.1.0]hexane-1-carboxylic acid N-(methoxycarbonyl-methyl)-amide is obtained in the form of an oil.

reactant | 2-(4,6-dimethoxy-pyrimidin-2-yl-oxy)-5-methyl-bicyclo[3.1.0]hexane-1-carboxylic acid | 3.4 mmol, 1 g | COC1=NC(=NC(=C1)OC)OC1C2(CC2(CC1)C)C(=O)O | C14H18N2O5
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 3.4 mmol, 0.53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl aminoacetate | 7.1 mmol, 0.9 g | NCC(=O)OC | C3H7NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(4,6-Dimethoxy-pyrimidin-2-yl-oxy)-5-methyl-bicyclo-[3.1.0]hexane-1-carboxylic acid N-(methoxycarbonyl-methyl)-amide | COC(=O)CNC(=O)C12C(CCC2(C1)C)OC1=NC(=CC(=N1)OC)OC | C17H23N3O6
